Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
tramadol / tramadol / colchicine
 
Attending: ___
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
Right lower leg wound debridement and hematoma washout ___

Right lower leg wound debridement, hematoma washout, and wound 
VAC placement ___

 
History of Present Illness:
___ w/ h/o afib / aflutter on coumadin, CKD, p/w R calf hematoma
s/p fall two weeks ago. Patient tripped over a backpack and fell
backwards on ___. He subsequently developed a hematoma of the R
calf. He was being seen by his PCP at ___ and had a
visiting nurse for daily evaluations and wound care. Due to
increased erythema and concern for cellulitis, ceftriaxone was
started on ___ and he has been receiving daily dosing since
then. He was sent to the ED per ___ for further
wound care. He denies fevers/chills. No sensory deficits in the
lower extremities. Increased pain over R calf. He has not taken
coumadin for a week, INR today is 1.3. WBC 7.7, Hct 29.1. 

 
Past Medical History:
PMH: CKD, afib/aflutter, HTN, BPH
PSH: b/l knee replacements, L hip replacement, R femur fixation
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 97.9, 78, 100/66, 18, 98%RA
PE:
AAOx3, NAD
R calf posterior hematoma, large, skin breakdown, minor drainage
of old hematoma, R lower leg erythema is circumferential, R foot
edema, b/l DP palpable

DISCHARGE PHYSICAL EXAM:
========================
VS: T 98.7  HR 68  BP 129/75  RR 20  Sat 94% RA
Gen: NAD, A&Ox3 comfortable
HEENT: No conjuctival pallor, non-icteric sclera
CV: Irregular rhythm, no MRG
Lung: CTAB
Abd: Soft, NT, ND
Ext: ~7cm x10cm open wound on right posterior leg with wound vac 
in place, wound is clean and dry, no erythema or exudate

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:42PM BLOOD WBC-7.7 RBC-3.06* Hgb-9.1* Hct-29.1* 
MCV-95 MCH-29.7 MCHC-31.3* RDW-14.4 RDWSD-50.1* Plt ___
___ 01:42PM BLOOD Neuts-68.3 Lymphs-15.5* Monos-11.0 
Eos-3.1 Baso-0.9 Im ___ AbsNeut-5.26 AbsLymp-1.19* 
AbsMono-0.85* AbsEos-0.24 AbsBaso-0.07
___ 01:42PM BLOOD ___ PTT-29.0 ___
___ 01:42PM BLOOD Glucose-90 UreaN-14 Creat-0.6 Na-138 
K-4.9 Cl-100 HCO3-25 AnGap-13
___ 01:42PM BLOOD Calcium-8.9 Phos-4.0 Mg-2.2
___ 02:59PM BLOOD Lactate-2.2*
___ 03:17PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:17PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-TR* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:17PM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE Epi-1
___ 03:17PM URINE CastHy-3*
___ 03:17PM URINE Mucous-FEW*

INTERIM LABS:
=============
___ 02:59PM BLOOD ___

DISCHARGE LABS:
===============
___ 05:10AM BLOOD WBC-9.0 RBC-3.45* Hgb-10.2* Hct-32.2* 
MCV-93 MCH-29.6 MCHC-31.7* RDW-14.1 RDWSD-48.7* Plt ___
___ 05:10AM BLOOD ___ PTT-29.1 ___
___ 05:10AM BLOOD Glucose-95 UreaN-19 Creat-0.6 Na-142 
K-4.0 Cl-102 HCO3-28 AnGap-12
___ 05:10AM BLOOD Calcium-8.6 Phos-2.2* Mg-2.1

MICROBIOLOGY:
============= 
___ 1:42 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 
 
___ 1:40 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 3:17 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING/STUDIES:
================
PATH - Soft Tissue Debridement ___:
-Skin and subcutis with organizing hematoma, fat necrosis, and 
granulation tissue.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of CKD, atrial 
fibrillation on Coumadin who presented with a right calf 
hematoma after a mechanical fall two weeks ago. He underwent a 
wound debridement and hematoma washout ___. The patient has 
a very large right medial calf wound hematoma without obvious 
infection.  The overlying skin was completely necrotic.  The 
cavity that the evacuated clot had filled was 11 x 7 x 2 cm.  
The underlying muscle was viable.  The clot was evacuated, 
necrotic tissue excised, the wound washed out and a VAC placed. 
After getting out of the procedure, he has had soft BPs in the 
PACU. He has received 500 cc of albumin and 2 U pRBCS. He has 
also received approximately 2 L of crystalloid. His BPs have 
been persistently in the ___ so the decision was made to 
admit the patient to the ___ service for overnight monitoring. 
His BP's improved to the 100's and he was transferred to the 
floor. The patient was brought back to OR on ___ because it 
was thought that there may be additional material to be 
debrided. During the procedure there was found some necrotic 
tissue that was rather superficial, but overlying the patient's 
fascia. The fascia was opened because of concerned that the 
muscle may not be viable; found some edema fluid within the 
fascia and the muscle itself was viable. The 11 x 7 cm area was 
debrided and also ___ elevator was used to remove some of the 
tissue stuck to the fascia. Some skin was debrided as well along 
with the subcutaneous tissue and that was all sent for 
pathologic examination without any significant findings. A VAC 
overlying the area was placed. The patient tolerated the 
procedure and recovered well. 

When tolerating a diet, the patient was converted to oral pain 
medication with continued good effect. His Coumadin was 
restarted on ___ without evidence of bleeding. Diet was 
progressively advanced as tolerated to a regular diet with good 
tolerability. The patient voided without problem. During this 
hospitalization, the patient ambulated early and frequently. At 
the time of discharge, the patient was doing well, afebrile with 
stable vital signs.  The patient was tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Verapamil 40 mg PO Q24H 
3. Warfarin 5 mg PO DAILY16 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: pain control
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*4 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
5.  Senna 17.2 mg PO HS  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Verapamil 40 mg PO Q24H  
8.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Hematoma

SECONDARY:
==========
Afib

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ due to 
right leg pain that was found to be due to a large blood clot 
after a fall two weeks ago. The blood clot was removed and the 
wound washed out thoroughly. A wound vacuum device was applied 
to encourage healing. You tolerated the procedure and are 
healing well. You are now ready to be discharged to rehab.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with warm water. 
Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.

Thank you for allow us to be a part of your care. 

Sincerely,

Your ___ Surgery Team

 
Followup Instructions:
___